US06660780B2
The acylated phenylalanine anilide imprint molecule was synthesized in three steps. (1) N-α-t-BOC-L-phenylalanine was coupled with 2-aminopyridine using DCC to give N-α-t-BOC-L-phenylalaniine-2-aminopyridine. (2) The a-amine was then deprotected with TFA to give N-α-L-phenylalanine-2-aminopyridine. (3) To create a compound having the properties of a surfactant, the free amine was then acylated with decanoic acid using DCC to give N-α-decyl-L-phenylalanine-2-aminopyridine.

reactant | decanoic acid | C(CCCCCCCCC)(=O)O | C10H20O2
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | N-α-decyl-L-phenylalanine 2-aminopyridine | C(CCCCCCCCC)N[C@@H](CC1=CC=CC=C1)C(=O)O.NC1=NC=CC=C1 | InChI=1S/C19H31NO2.C5H6N2/c1-2-3-4-5-6-7-8-12-15-20-18(19(21)22)16-17-13-10-9-11-14-17;6-5-3-1-2-4-7-5/h9-11,13-14,18,20H,2-8,12,15-16H2,1H3,(H,21,22);1-4H,(H2,6,7)/t18-;/m0./s1
